US09339502B2
Step 2: 1-Methoxy-5,7,8,9-tetrahydro-benzocyclohepten-6-one:
5-Methoxy-1-methylene-1,2,3,4-tetrahydro-naphthalene (23.8 g, 0.137 mol) in 150 mL MeOH added in one portion to freshly prepared solution of thallium(III)nitrate trihydrate (1.0 eq) in 300 mL MeOH. Stirred one minute and 400 mL chloroform added. The solution was filtered and the organics partitioned between dichloromethane and water. The organics were dried (MgSO4) and concentrated. Purification by chromatography (ISCO, 330 g silica cartridge; stepwise elution hexane (5 min) then 7 minute gradient to 100% dicloromethane (20 min) affords the title compound as the most polar of the products as a pale yellow oil (26 g, 97%). 1H-NMR (400 MHz, CDCl3) 7.16 (t, J=7.9 Hz, 1H), 7.84 (d, J=8.3 Hz, 1H), 6.79 (d, J=7.5 Hz, 1H), 3.84 (s, 3H), 3.73 (s, 2H), 3.05-3.01 (m, 2H), 2.55 (t, J=7.0 Hz, 2H), 2.01-1.96 (m, 2H). LC/MS (ESI+) m/z=191 (M+H)+

reactant | 5-Methoxy-1-methylene-1,2,3,4-tetrahydro-naphthalene | 0.137 mol, 23.8 g | COC1=C2CCCC(C2=CC=C1)=C | C12H14O
reactant | thallium(III)nitrate trihydrate | 1.0 eq | O.O.O.[N+](=O)([O-])[O-].[Tl+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 150 mL | CO | CH4O
solvent | MeOH | 300 mL | CO | CH4O
product | 1-Methoxy-5,7,8,9-tetrahydro-benzocyclohepten-6-one | COC1=CC=CC2=C1CCCC(C2)=O | C12H14O2
